US08476294B2
Stage 29.1.1 2-(4-Ethoxy-3-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
To a mixture of 4-hydroxy-3-methoxyphenylboronic acid pinacol ester (Aldrich, Buchs, Switzerland, 200 mg, 0.800 mmol), triphenylphosphine (315 mg, 1.200 mmol) and ethanol (0.056 ml, 0.960 mmol) in THF (4 ml) under Argon was added dropwise diisopropyl azodicarboxylate (0.253 ml, 1.20 mmol). The RM was stirred at it for 17.5 h. Then the RM was diluted with EtOAc and the organic layer was washed with brine (2×), before being dried over Na2SO4, filtered and evaporated. The residue was absorbed on silica gel and purified by MPLC (hexane/EtOAc 0 to 30%). The fractions containing product were together evaporated to give the title compound as a white solid. (HPLC: tR 3.58 min (Method A); M+H=279 MS-ES)

reactant | 4-hydroxy-3-methoxyphenylboronic acid pinacol ester | 0.800 mmol, 200 mg | OC1=C(C=C(C=C1)B1OC(C)(C)C(C)(C)O1)OC | C13H19BO4
reactant | triphenylphosphine | 1.200 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethanol | 0.960 mmol, 0.056 ml | C(C)O | C2H6O
reactant | diisopropyl azodicarboxylate | 1.20 mmol, 0.253 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Ethoxy-3-methoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C(C)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C15H23BO4
